US07414134B2
Step (i): Synthesis of (S)-methyl 4-(tert-butyldimethylsilyloxy)-3,4-dihydro-2H-chromene-7-carboxylate (7)
A mixture of (S)-methyl-4-hydroxyl-3,4-dihydro-2H-chromene-7-carboxylate (10.2 g, 49.0 mmol), imidazole (3.70 g, 53.9 mmol), and TBSCl (8.12 g, 53.9 mmol) in DMF (100 mL) was stirred for 24 h at RT. The reaction mixture was quenched with H2O and extracted with ether (3×). The organic extracts were dried over MgSO4, and concentrated to give a brown oil. 1H NMR (400 MHz, CDCl3): δ 0.74 (s, 15H), 1.81 (m, 1H), 1.91 (m, 1H), 3.87 (s, 3H), 4.02 (m, 1H), 4.11 (m, 1H), 4.67 (t, 5.2 Hz, 1H), 7.09 (s, 1H), 7.11 (d, 7.6 Hz, 1H), 7.23 (d, 7.6 Hz, 1H).

reactant | (S)-methyl-4-hydroxyl-3,4-dihydro-2H-chromene-7-carboxylate | 49.0 mmol, 10.2 g | COC(=O)C1=CC=C2[C@H](CCOC2=C1)O | C11H12O4
reactant | imidazole | 53.9 mmol, 3.70 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 53.9 mmol, 8.12 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (S)-methyl 4-(tert-butyldimethylsilyloxy)-3,4-dihydro-2H-chromene-7-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@H]1CCOC2=CC(=CC=C12)C(=O)OC | C17H26O4Si
